US07179801B2
To a mixture of 3-(4-formyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionic acid (18.0 g), triethylamine (9.8 g) and tetrahyrofuran (300 ml) was added dropwise ethyl chloroformate (9.6 g) under ice-cooling. The mixture was stirred under ice-cooling for 30 minutes. To the reaction mixture was added a solution of sodium azide (6.68 g) in water (100 ml), and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added methylene chloride, and the aqueous layer was separated. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. To the oily residue was added methanol (100 ml), and the mixture was stirred under reflux for 1.5 hours. The reaction mixture was concentrated in vacuo to give crude methyl N-[2-(4-formyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)ethyl]carbamate as an oil. This product was used in the next step without further purification.

reactant | 3-(4-formyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionic acid | 18.0 g | C(=O)N1C=2N(CCC1)N=CC2CCC(=O)O | C10H13N3O3
reactant | triethylamine | 9.8 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 9.6 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 6.68 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahyrofuran | 300 ml | O1CCCC1 | C4H8O
product | methyl N-[2-(4-formyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)ethyl]carbamate | C(=O)N1C=2N(CCC1)N=CC2CCNC(OC)=O | C11H16N4O3
